US08183381B2
2-(4-(4-((2-Fluoro-4-(1H-tetrazol-1-yl)phenoxy)methyl)-2H-1,2,3-triazol-2-yl)-2-methylpiperidin-1-yl)-5-(trifluoromethyl)pyrimidine
The title compound was synthesized from 4-(4-((2-fluoro-4-(1H-tetrazol-1-yl)phenoxy)methyl)-2H-1,2,3-triazol-2-yl)-2-methylpiperidine hydrochloride and 2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidine in a manner similar to that described in Example 9. The title compound was isolated as a mixture of four stereoisomers.

reactant | 4-(4-((2-fluoro-4-(1H-tetrazol-1-yl)phenoxy)methyl)-2H-1,2,3-triazol-2-yl)-2-methylpiperidine hydrochloride | Cl.FC1=C(OCC2=NN(N=C2)C2CC(NCC2)C)C=CC(=C1)N1N=NN=C1
reactant | 2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidine | CS(=O)(=O)C1=NC=C(C=N1)C(F)(F)F | C6H5F3N2O2S
product | 2-(4-(4-((2-Fluoro-4-(1H-tetrazol-1-yl)phenoxy)methyl)-2H-1,2,3-triazol-2-yl)-2-methylpiperidin-1-yl)-5-(trifluoromethyl)pyrimidine | FC1=C(OCC2=NN(N=C2)C2CC(N(CC2)C2=NC=C(C=N2)C(F)(F)F)C)C=CC(=C1)N1N=NN=C1 | C21H20F4N10O
